US04616023
1.00 gram (3.27 millimoles) of 3-bromo-5-chloro-5H-dibenzo[a,d]cycloheptene, 0.7 gram (about 7 millimoles) of N-methylpiperazine and 3 milliliters of dimethylformamide were stirred together at room temperature under an atmosphere of nitrogen for 60 hours. At the end of this period, water and aqueous sodium carbonate solution was added, and the resulting aqueous solution extracted with ether. The ether solution was washed five times with water, then with saturated sodium chloride solution and dried over magnesium sulfate. The solvent was removed from the dried solution in vacuo to obtain a residue. The residue was triturated with acetonitrile and crystallized from acetonitrile. It was then purified by passing through a Still column using 3 percent methanol in chloroform as eluant, crystallized from acetonitrile, and the crystals dried over phosphorus pentoxide at 78° C./0.2 mm Hg for 17 hours to obtain 0.57 gram of 1-(3-bromo-5H-dibenzo[a,d]cyclohepten-5-yl)-4-methylpiperazine product, m.p. 128°-130° C. Elemental analyses were as follows:

reactant | 3-bromo-5-chloro-5H-dibenzo[a,d]cycloheptene | 3.27 millimoles, 1.00 gram | BrC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)Cl)C1 | C15H10BrCl
reactant | N-methylpiperazine | about 7 millimoles, 0.7 gram | CN1CCNCC1 | C5H12N2
reactant | dimethylformamide | 3 milliliters | CN(C=O)C | C3H7NO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 1-(3-bromo-5H-dibenzo[a,d]cyclohepten-5-yl)-4-methylpiperazine | 0.57 gram | BrC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)N3CCN(CC3)C)C1 | C20H21BrN2
